US09328118B2
Zinc (498 mg), 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (1.3 g), zinc cyanide (1.8 g), and palladium (II) trifluoroacetate (498 mg) were added to a solution of tert-butyl 4-(2-{[5-(2-chloro-9-methyl-9H-purin-6-yl)-3-(trifluoromethyl)pyridin-2-yl]oxy}ethyl)piperidine-1-carboxylate (8.3 g) in DMAc (125 mL) at room temperature in an argon atmosphere, and the mixture was stirred at 50° C. for 3 hours. After the reaction mixture was cooled to room temperature, EtOAc (100 mL) and Celite were added thereto, and the mixture was stirred at room temperature. The insoluble material was separated by filtration, and a saturated aqueous NaHCO3 solution, saturated brine, and water was added to the filtrate. Extraction was performed on the mixture using EtOAc, and the extract was washed with water and saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=70:30 to 30:70), whereby tert-butyl 4-(2-{[5-(2-cyano-9-methyl-9H-purin-6-yl)-3-(trifluoromethyl)pyridin-2-yl]oxy}ethyl)piperidine-1-carboxylate (7.6 g) was obtained as a solid.

reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 1.3 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | tert-butyl 4-(2-{[5-(2-chloro-9-methyl-9H-purin-6-yl)-3-(trifluoromethyl)pyridin-2-yl]oxy}ethyl)piperidine-1-carboxylate | 8.3 g | ClC1=NC(=C2N=CN(C2=N1)C)C=1C=C(C(=NC1)OCCC1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C24H28ClF3N6O3
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
reactant | DMAc | 125 mL | CC(=O)N(C)C | C4H9NO
catalyst | Zinc | 498 mg | [Zn] | Zn
catalyst | zinc cyanide | 1.8 g | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium (II) trifluoroacetate | 498 mg | FC(C(=O)[O-])(F)F.[Pd+2].FC(C(=O)[O-])(F)F
product | tert-butyl 4-(2-{[5-(2-cyano-9-methyl-9H-purin-6-yl)-3-(trifluoromethyl)pyridin-2-yl]oxy}ethyl)piperidine-1-carboxylate | 7.6 g | C(#N)C1=NC(=C2N=CN(C2=N1)C)C=1C=C(C(=NC1)OCCC1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C25H28F3N7O3
